US07648987B2
3-Ethoxy-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-8-ylamine
7-(8-Chloro-3-ethoxy-imidazo[1,5-a]pyrazin-1-yl)-2-phenyl-quinoline (20.0 mg, 0.050 mmol) was dissolved into a 80 mL sealed tube with isopropyl alcohol (1.0 mL, 3.0 mmol). The solution was cooled to −20° C. and charged with ammonia gas. The reaction was heated to 110 IC for 72 hours. The reaction was then cooled, concentrated in vacuo and dissolved with CH2Cl2. The crude product was purified via silica gel column chromatography, (Jones, 2.0 gram column; 100% EtOAc) to yield the title compound as a yellow solid; MS (ES+): m/z 382.08 (90) [MH+], 383.09 (30) [MH++]. HPLC: tR=2.26 min (OpenLynx, polar—5 min); 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.52 (t, J=7.07 Hz, 3H), 4.66 (q, J=7.07 Hz, 2H), 6.96 (d, J=5.05 Hz, 1H), 7.13 (d, J=5.05 Hz, 1H), 7.34-7.63 (m, 3H), 7.75-8.01 (m, 3H), 8.10-8.32 (m, 3H), 8.40 (s, 1H).

reactant | 7-(8-Chloro-3-ethoxy-imidazo[1,5-a]pyrazin-1-yl)-2-phenyl-quinoline | 0.050 mmol, 20.0 mg | ClC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)OCC | C23H17ClN4O
reactant | isopropyl alcohol | 3.0 mmol, 1.0 mL | C(C)(C)O | C3H8O
reactant | ammonia | N | H3N
product | 3-Ethoxy-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-8-ylamine | C(C)OC1=NC(=C2N1C=CN=C2N)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C23H19N5O
